Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Facial droop, slurred speech, difficulty seeing.
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
HPI: Ms. ___ is a ___ woman with sickle cell trait,
prior strokes (L temporoparietal, bilateral cerebellar, and
frontal, R frontal), history of blood clots (L transverse sinus
thrombosis, PE) on apixaban, and multiple miscarriages who
presents today with a left facial droop, slurred speech, and
trouble seeing. 

Yesterday morning, she woke up with slurred speech. Her words
were coming out slurred, but she was saying everything she 
wanted
to say and knew what she wanted to say.  She was tired and spent
most of the day sleeping, so her mother, who lives with her, did
not notice that she had a facial droop.  She missed 1 dose of
Eliquis.  This morning, she got out of the shower at 7 AM and
noticed that she was unable to focus her eyes.  She was unable 
to
tell if there is a problem in her vision with one eye or both
eyes.  Because of this and the facial droop, she came to the
emergency room.

Of note, she currently has a right lower tooth abscess for which
she is taking clindamycin.  In ___, she presented to ___ 
___
for a 4 day history of speech changes.  She was having trouble
finding words, with sometimes stutter or substitute words.  She
was found to have an acute left temporoparietal, small bilateral
cerebellar and frontal infarcts.  She also had an old right
frontal infarct on imaging.  MRV showed a left transverse sinus
thrombus.  She was started on IV heparin and transition to
warfarin.  She had an extensive workup that included an
echocardiogram (both transthoracic and transesophageal) and a
hypercoagulable workup, which were unrevealing.  She remained on
the warfarin, but this was discontinued in ___ because a cause
of her stroke was never found.  She was started on aspirin at
that time.  She did well until ___ when she was found 
to
have a pulmonary embolus.  She was then started on apixaban 5 mg
twice daily.
 
Past Medical History:
1. Two  prior miscarriages, 
2. ischemic strokes to the left temporoparietal lobe,bilateral 
cerebellar, frontal lobes;
3. pulmonary embolism, 
4. transverse sinus thrombus, 
5. sickle cell trait

 
Social History:
___
Family History:
HTN and DM. No history of seizures or strokes.
 
Physical Exam:
Admission Exam:

PHYSICAL EXAMINATION
Vitals:  T: 98.1F   HR: 102  BP: 138/83  RR: 18  SaO2: 100% RA
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive,speech is fluent with full
sentences, intact repetition, and intact verbal comprehension.
Naming intact. Able to name individual fingers.  No paraphasias. 

Mild dysarthria. Normal prosody. No apraxia. Unable to read on
the right (will only read the first two letters of a sentence).
Writes only on the left side of the page. Will bisect a line on
with the cross mark on the left. Able to perform calculations. 
No
left-right confusion. Able to follow both midline and
appendicular commands.

- Cranial Nerves: PERRL 3->2 brisk. Optic discs crisp. Dense R
hemianopsia. EOMI, no nystagmus. V1-V3 without deficits to light
touch bilaterally. Left lower facial droop. Forehead raise
symmetric. Hearing intact to finger rub bilaterally.  Palate
elevation symmetric. SCM/Trapezius strength ___ bilaterally.
Tongue midline.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.

   [Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1]
 L   5     5     5     5     5    5     5     5     5    5 
 R   5     5     5     5     5    5     5     5     5    5
  
- Reflexes: 
       [Bic] [Tri] [___] [Quad] [Gastroc]
    L  2+    2+     2+      2+       1
    R  2+    2+     2+      2+       1  

Plantar response could not be tested as pt's withdrawal was too
strong even to slight stimulus

- Sensory: No deficits to light touch or pin throughout. No
exinction to DSS.

- Coordination: No dysmetria with finger to nose testing
bilaterally. 

- Stance and Gait: broad-based, steady; Romberg is negative

Discharge exam:
Improvement in her alexia-without-agraphia -- improved reading 
sight-words. Still reading slower than she did before the 
stroke.
Mild left lower facial droop.
Right homonymous hemianopsia.

 
Pertinent Results:
___ 10:00AM BLOOD WBC-10.1* RBC-3.35* Hgb-8.7*# Hct-26.3*# 
MCV-79* MCH-26.0 MCHC-33.1 RDW-13.7 RDWSD-39.1 Plt ___
___ 05:00AM BLOOD WBC-9.1 RBC-2.84* Hgb-7.3* Hct-22.4* 
MCV-79* MCH-25.7* MCHC-32.6 RDW-13.8 RDWSD-39.5 Plt ___
___ 11:42PM BLOOD WBC-8.3 RBC-3.08* Hgb-8.3* Hct-24.7* 
MCV-80* MCH-26.9 MCHC-33.6 RDW-14.2 RDWSD-41.1 Plt ___
___ 07:30AM BLOOD WBC-6.1 RBC-3.23* Hgb-8.6* Hct-26.1* 
MCV-81* MCH-26.6 MCHC-33.0 RDW-15.6* RDWSD-45.5 Plt ___
___ 10:12AM BLOOD Neuts-76.3* Lymphs-13.4* Monos-8.8 
Eos-0.8* Baso-0.2 Im ___ AbsNeut-6.59* AbsLymp-1.16* 
AbsMono-0.76 AbsEos-0.07 AbsBaso-0.02
___ 10:12AM BLOOD Hypochr-2+ Anisocy-1+ Poiklo-1+ 
Macrocy-NORMAL Microcy-1+ Polychr-1+ Ovalocy-1+ Target-1+ 
Schisto-1+
___ 10:12AM BLOOD Hb A-62.3 Hb S-34.1* Hb C-0 Hb A2-3.6* Hb 
F-0
___ 07:30AM BLOOD ___ PTT-80.6* ___
___ 07:30AM BLOOD Glucose-98 UreaN-6 Creat-0.9 Na-143 K-4.2 
Cl-108 HCO3-23 AnGap-16
___ 10:12AM BLOOD LD(LDH)-244
___ 10:00AM BLOOD ALT-11 AST-16 CK(CPK)-101 AlkPhos-60 
TotBili-0.3
___ 10:00AM BLOOD CK-MB-3 cTropnT-0.02*
___ 07:30AM BLOOD Calcium-8.7 Phos-4.0 Mg-2.0
___ 10:12AM BLOOD calTIBC-339 Hapto-238* Ferritn-17 TRF-261
___ 01:34PM BLOOD %HbA1c-5.5 eAG-111
___ 10:00AM BLOOD Triglyc-114 HDL-77 CHOL/HD-1.9 LDLcalc-47
___ 10:00AM BLOOD TSH-2.6
___ 10:00AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
Brief Hospital Course:
Ms. ___ is a ___ year old woman with a history of prior stroke 
who presented with left lower facial weakness and right 
homonymous hemianopsia, along with some difficulty speaking. 
These symptoms were worrisome for stroke. She had a history of 
prior stroke, and also a history of symptoms suggesting a 
hyperocagulable state, though her prior hematologic workup 
(about ___ years ago) did not reveal any caues of a 
hyper-coagulable state. Her two main symptoms, the hemi-visual 
field cut and the left lower facial weakness were difficult to 
localize to the same origin. The left  homonymous hemianopsia 
was most likely from a stroke in the left PCA distribution, 
given that she also has alexia without agraphia. The left 
fusiform gyrus was affected, and the left splenium of the corpus 
collosum is partially affected on DWI. She most likely had a 
partial left PCA occlusion, mostly P3, given that she does not 
have complete amnesia, though she does have some memory 
difficulties. A more complete PCA occlusion would have a 
stronger effect on the hippocampus. 
Ms. ___ left facial weakness was best explained by her 
right frontal cortical stroke, seen on MRI. She is not aphasic, 
so she has more distally-affected brain tissue in the right 
cortical areas. 
Ms. ___ has several pieces of history suggestive of a 
hypercoagulable state: she has had 2 miscarriages, a PE, and 
prior stroke. Ms. ___ also has sickle trait, confirmed on 
repeat Hb electrophoresis as HbSA disease, and this does not 
cause a hypercoagulable state. Hematology was consulted 
initially.

On Ms. ___ first day of admission, her hematocrit was 10 
points lower than what it was in ___, the last hct in 
the BI system, so she was transfused with 1U of blood. She 
endorsed heavy periods, and given her microcytosis and low iron, 
it was thought that an iron deficiency anemia, likely from her 
recent extremely heavy periods, was to blame for her hct drop. 
At the time, she had no symptoms of anemia -- she was not 
tachycardic or light-headed. She tolerated the 1U of pRBC well. 
Labs for a hyper-coagulable workup were drawn, except for lupud 
anti-coagulant. Anti-cardiolipin antibodies were negative. No 
other labs were revealing (see full list in ___). 
She was started on a heparin drip, and then warfarin. While 
inpatient, we attempted to search for a source for her 
hypercoagulable, given her otherwise negative lab workup.
Since she had recent dental work, blood cultures were drawn x3, 
which remained negative throughout her hospitalization. 
Echo showed no thrombus, and no PFO.
CT chest, abdomen, and pelvis was performed. Abdomen and pelvis 
showed enlarged and heterogeneous uterus, though findings could 
be explained by adenomyosis or uterine fibroids, a mass cannot 
be excluded.  Further characterization with pelvic MRI was 
performed, and showed:
1.  Enlarged uterus secondary to adenomyosis. 
2.  At least three small uterine fibroids. 
3.  Normal ovaries. 
CT chest showed Subsegmental right lower lobe and left lower 
lobe small pulmonary emboli. The CT chest also revealed 
questionable sclerotic focus in L1. A bone scan was performed, 
to clarify this lesion, and showed no evidence of osseous 
metastatic disease.
Ultimately, it was thought that Ms. ___ hypercoagulable 
state is not likely due to an occult malignancy, because she has 
been hypercoagulable for several years, and for a malignancy to 
show no other symptoms for this length of time would be very 
rare. It is most likely that Ms. ___ has anti-phospholipid 
antibody syndrome, given the characterization of her clotting 
tendencies, and given that her platelets improved after she 
became therapeutic on her heparin drip; though, we do not have 
the complete testing to confirm the diagnosis at this time, and 
that testing should be pursued as an outpatient.

Ms. ___ was discharged on Coumadin, and instructed to get an 
INR checked the next morning at ___ clinic. She 
was given a prescription for outpatient physical therapy.
She agreed with plans for discharge and follow-up with 
hematology, neurology, her PCP, ___, gynecology.
She should have formal visual field testing as well as an 
outpatient before she is allowed to return to driving.

============================================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed  () No
2. DVT Prophylaxis administered? (x) Yes - () No
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No
4. LDL documented? (x) Yes (LDL = 47 ) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) () Yes - (x) No [if 
LDL >100, reason not given: ]
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No
9. Discharged on statin therapy? () Yes - (x) No [if LDL >100, 
reason not given: ]
10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - (x) Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A

Items for post-hospitalization follow-up:
- Discharged on Coumadin 7.5mg daily, INR goal 2.5-3.5.
- Heavy menstrual bleeding -- pelvic MRI showed uterine 
adenomyosis and 3 small uterine fibroids.
- Anemia -- started iron supplementation while inpatient.
- Hyper-coag workup -- leading hypothesis is anti-phospholipid 
antibody syndrome, though anti-cardiolipin antibodies neg. Need 
to test Lupus Anticoagulants as an outpatient.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 5 mg PO BID 
2. Clindamycin 300 mg PO Q8H 

 
Discharge Medications:
1.  Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate [Iron (ferrous sulfate)] 325 mg (65 mg iron) 
1 tablet(s) by mouth daily Disp #*30 Tablet Refills:*6 
2.  Warfarin 7.5 mg PO DAILY16 
RX *warfarin [Coumadin] 7.5 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*1 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ischemic stroke
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms.  ___,
You were hospitalized due to symptoms of difficulty seeing, 
reading, and facial droop, resulting from an ACUTE ISCHEMIC 
STROKE, a condition where a blood vessel providing oxygen and 
nutrients to the brain is blocked by a clot. The brain is the 
part of your body that controls and directs all the other parts 
of your body, so damage to the brain from being deprived of its 
blood supply can result in a variety of symptoms.
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
- Blood clotting disorder (unknown exact diagnosis)

We are changing your medications as follows:
<>
Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___